US06020329
(b) Sodium (6R,7R)-7-[2-(2-aminothiazol-4-yl)-2-(Z)-methoxyiminoacetamido]-3-[(S)-tetrahydrofuran-2-yl]ceph-3-em-4-carboxylate
Aluminium chloride (162mg, 1.21mmol) was added to anisole (7ml) and dry dichloromethane (3.5ml) at -20° C. and stirred for 15 min. The temperature of the cooling bath was then lowered to -40° C. before addition of a solution of 4-methoxybenzyl (6R,7R)-7-[2-(2-aminothiazol-4-yl)-2-(Z)-methoxyiminoacetamido]-3-[(S)-tetrahydrofuran-2-yl]ceph-3-em-4-carboxylate (235mg, 0.41mmol) in dichloromethane (5ml). After 10 min., the solution was treated with trisodium citrate (0.5M, 12ml) and then vigorously stirred for 10 min at room temperature. The aqueous phase was separated, washed with dichloromethane (x2) and concentrated in vacuo. The residue was chromatographed on HP20SS eluting with water, then 1% THF in water. Fractions containing the product, (h.p.l.c. analysis), were combined and freeze-dried to give the title compound (126mg, 65%); vmax (KBr) 3401, 1761, 1669, 1603, 1533, 1040cm-1 ; δH (d6 -DMSO, 250MHz) 1.43-1.59 (1H, m), 1.71-1.88 (2H, m), 2.0-2.12 (1H, m), 3.18 and 3.37 (2H, ABq, J 17.4Hz), 3.58 (1H, m), 3.78 (1H, m) , 3.81 (3H, s), 4.87 (1H, dd, J 8.7, 6.7Hz), 4.97 (1H, d, J 4.7Hz), 5.50 (1H, dd, J 8.1, 4.7Hz), 6.74 (1H, s), 7.21 (2H, br. s, exch.), 9.48 (1H, d, J 8.1Hz, exch.). [Mass spectrum: +ve ion (thioglycerol) MH+ (476), MNa+ (498)].

reactant | Aluminium chloride | 1.21mmol, 162mg | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | anisole | 7ml | C1(=CC=CC=C1)OC | C7H8O
reactant | 4-methoxybenzyl (6R,7R)-7-[2-(2-aminothiazol-4-yl)-2-(Z)-methoxyiminoacetamido]-3-[(S)-tetrahydrofuran-2-yl]ceph-3-em-4-carboxylate | 0.41mmol, 235mg | NC=1SC=C(N1)/C(/C(=O)N[C@H]1[C@@H]2N(C(=C(CS2)[C@H]2OCCC2)C(=O)OCC2=CC=C(C=C2)OC)C1=O)=N/OC | C25H27N5O7S2
reactant | trisodium citrate | 0.5M, 12ml | C(CC(O)(C(=O)[O-])CC(=O)[O-])(=O)[O-].[Na+].[Na+].[Na+]
solvent | dichloromethane | 5ml | ClCCl | CH2Cl2
solvent | dichloromethane | 3.5ml | ClCCl | CH2Cl2
product | Sodium (6R,7R)-7-[2-(2-aminothiazol-4-yl)-2-(Z)-methoxyiminoacetamido]-3-[(S)-tetrahydrofuran-2-yl]ceph-3-em-4-carboxylate | 126mg, 65% | NC=1SC=C(N1)/C(/C(=O)N[C@H]1[C@@H]2N(C(=C(CS2)[C@H]2OCCC2)C(=O)[O-])C1=O)=N/OC.[Na+] | InChI=1S/C17H19N5O6S2.Na/c1-27-21-10(8-6-30-17(18)19-8)13(23)20-11-14(24)22-12(16(25)26)7(5-29-15(11)22)9-3-2-4-28-9;/h6,9,11,15H,2-5H2,1H3,(H2,18,19)(H,20,23)(H,25,26);/q;+1/p-1/b21-10-;/t9-,11+,15+;/m0./s1
